US07714168B2
According to the same method as that of Production Example 1, 1,2-dimethylbutylamine was used in place of 2,2-dimethylpropylamine, 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(1,2-dimethylbutyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide (hereinafter, described as the compound 22 of the present invention) represented by the formula:

reactant | 1,2-dimethylbutylamine | CC(C(CC)C)N | C6H15N
reactant | 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride | C(C#C)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C12H11ClO4
product | N-(1,2-dimethylbutyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide | CC(C(CC)C)NC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O | C18H25NO4
